* C:\github\electronics-design-data\circuits\LED_linear_current_control\high_current_low_dropout.asc
R1 N001 N002 1k
Q1 N002 N003 0 0 2N3904
Q2 OUT N002 N004 0 SS8050
R2 N004 N003 1.3k
R3 0 N004 0.5
V1 OUT 0 13.5
V2 N001 0 5
R4 N001 N003 10k
.model NPN NPN
.model PNP PNP
.lib C:\Users\32470\OneDrive - 7c7engineering.com\Documents\LTspiceXVII\lib\cmp\standard.bjt
.inc SS8050.mod
.dc V1 0 2
.backanno
.end
