* C:\github\electronics-design-data\circuits\current_source_stabilized\voltage_reference.asc
V1 N001 0 10
Q1 N002 N004 0 0 BC846B
R1 out1 N004 10k
R2 N004 0 10k
R3 N001 out1 1k
R4 out1 N002 {Rparam}
Q2 N003 N005 0 0 BC846B
R6 N005 0 10k
R7 N001 out2 1k
R8 out2 N003 {Rparam}
Q3 out2 out2 N005 0 BC846B
.model NPN NPN
.model PNP PNP
.lib C:\Users\32470\OneDrive - 7c7engineering.com\Documents\LTspiceXVII\lib\cmp\standard.bjt
.dc V1 0 10
.step param Rparam 0.01 200 10
.backanno
.end
