* Z:\home\christoph\git\electronics-design-data\circuits\voltage_reference\voltage_reference3b.asc
R1 N001 N002 220
R2 N001 N003 220
R3 N004 N005 100k
R4 N005 0 750
Q1 N004 N004 N002 0 2N3906
Q2 out N004 N003 0 2N3906
Q3 N004 out N005 0 2N3904
D1 0 out PH_BZX384-B3V9
V1 N001 0 5
.model D D
.lib C:\users\christoph\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\christoph\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
;.dc v1 10 30
.step temp 0 40 1
* select 6V2 temperature compensated zener \nthese have internal zener in series with forward diode.
* https://wiki.analog.com/university/courses/electronics/text/chapter-14\nhttps://sound-au.com/appnotes/an008.htm
.backanno
.end
